US05260262
To 2.5N n-BuLi in hexane (30 mL) cooled to 0 ° C was added in a slow stream furan (7 g, 0.1 mol) in anhydrous ether (60 mL). The mixture was heated at reflux for 3 h under a nitrogen atmosphere and then cooled to -6° C. A solution of methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (6 g, 17.6 mmol) in anhydrous ether (20 mL) was added dropwise and stirring was continued for 2 h. The mixture was then poured into iced water, acidified with conc. HCl and extracted with methylene chloride. The extract was washed with water and brine, dried (MgSO4), and conc. The oily residue was purified by chromatography with 10% ethyl acetate/cyclohexane to yield 4.4 g of methyl 2-(difluoromethyl)-5-(2-furanylhydroxymethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate as an orange oil, a 61% yield. nD25 1.4863.

reactant | n-BuLi | 2.5N | [Li]CCCC
reactant | furan | 0.1 mol, 7 g | O1C=CC=C1 | C4H4O
reactant | methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 17.6 mmol, 6 g | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C=O)C(F)(F)F)F | C14H14F5NO3
reactant | HCl | Cl | ClH
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | ether | 60 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 2-(difluoromethyl)-5-(2-furanylhydroxymethyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 4.4 g, 61% yield | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C(O)C=1OC=CC1)C(F)(F)F)F | C18H18F5NO4
